US07271172B2
ethyl cyano(3,4-dichlorophenyl)acetate
To a solution of diethyl carbonate (4.1 mL, 33.88 mmol) in toluene (150 mL) at r.t, sodium hydride (1.43 g, 60% in mineral oil, 35.75 mmol) and 3,4-dichlorophenyl acetonitrile (6.34 g, 34.09 mmol) were added. The content was stirred at 80° C. overnight. After cooling to r.t, HCl was added (1 N in H2O, 100 mL). The content was extracted with ethyl acetate (3×). The combined organic layer was washed with water, dried (Na2SO4), filtered and concentrated. The residue was purified by flash column chromatography with hexane/ethyl acetate (6/1) to give 7.42 g product (85% yield) as brown oil. 1H NMR (400 MHz, CDCl3) δ[ppm]: 7.60 (1H, broad s), 7.54 (1H, d, J=8.3 Hz), 7.35 (1H, broad d, J=8.3 Hz), 4.72 (1H, s), 4.29 (2H, q, J=14.2 Hz, 7.0 Hz), 1.28 (3H, t, J=6.7 Hz). LRMS calculated for C11H9Cl2NO2 M+ 257. found 257.

reactant | diethyl carbonate | 33.88 mmol, 4.1 mL | C(OCC)(OCC)=O | C5H10O3
reactant | sodium hydride | 35.75 mmol, 1.43 g | [H-].[Na+]
reactant | 3,4-dichlorophenyl acetonitrile | 34.09 mmol, 6.34 g | ClC=1C=C(C=CC1Cl)CC#N | C8H5Cl2N
reactant | HCl | Cl | ClH
solvent | toluene | 150 mL | C1(=CC=CC=C1)C | C7H8
solvent | H2O | O | H2O
product | ethyl cyano(3,4-dichlorophenyl)acetate | 7.42 g, 85% yield | C(#N)C(C(=O)OCC)C1=CC(=C(C=C1)Cl)Cl | C11H9Cl2NO2
